datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C([O-])c1c([O-:10])ccc2ccccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])c1c([O:10][H:20])ccc2ccccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+:21]1([H:20])[C@@H]2CC[C@H]1C[C@H](OC(=O)C(O)c1ccccc1)C2.O=C([O-])CC(c1ncc[nH]1)c1[nH]cc[n:10]1>>C[N:21]1[C@@H]2CC[C@H]1C[C@H](OC(=O)C(O)c1ccccc1)C2.O=C([O-])CC(c1ncc[nH]1)c1[nH]cc[n+:10]1[H:20] 10=20;20,21=21",
"C=C(C)[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)OC.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C=C(C)[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)OC.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCc1c(-c2ccccc2)nn(C2CC[N:10](C)CC2)c1[O-].[O-]c1cc([O:21][H:20])nc[nH+]1>>CCc1c(-c2ccccc2)nn(C2CC[N+:10](C)([H:20])CC2)c1[O-].[O-]c1cc([O-:21])nc[nH+]1 10=20;20,21=21",
"CSc1nc(N)c2c(ncn2[C@H]2O[C@H](CO)[C@@H](O)[C@H]2O)[n+:21]1[H:20].Cn1cc2ccccc2[n:10]1>>CSc1nc(N)c2c(ncn2[C@H]2O[C@H](CO)[C@@H](O)[C@H]2O)[n:21]1.Cn1cc2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"CC1CN(C)CC[N+:21]1(C)[H:20].CN1C(=S)[N-:10]c2cc3c(cc21)CCCC3>>CC1CN(C)CC[N:21]1C.CN1C(=S)[N:10]([H:20])c2cc3c(cc21)CCCC3 10=20;20,21=21",
"Cc1ccc2c(c1[O-])-c1c-2ccc(C)c1[O-:10].Cn1cnc2c1C(=O)c1nc[n+:21]([H:20])c([O-])c1C2=O>>Cc1ccc2c(c1[O-])-c1c-2ccc(C)c1[O:10][H:20].Cn1cnc2c1C(=O)c1nc[n:21]c([O-])c1C2=O 10=20;20,21=21",
"CC(=N[N+](C)(C)C)[O:21][H:20].N#CC1C[N:10]2CCC1CC2>>CC(=N[N+](C)(C)C)[O-:21].N#CC1C[N+:10]2([H:20])CCC1CC2 10=20;20,21=21",
"C[C@@H]1[C@@H]2Cc3ccc(O)cc3[C@@]1(C)CC[N:10]2CCF.O=C1c2c(nc[n:21]2[H:20])N=CN1[O-]>>C[C@@H]1[C@@H]2Cc3ccc(O)cc3[C@@]1(C)CC[N+:10]2(CCF)[H:20].O=C1c2c(nc[n-:21]2)N=CN1[O-] 10=20;20,21=21",
"CC(=O)c1cc([N+](=O)[O-])ccc1C(=O)[O-:10].Cc1csc[n+:21]1[H:20]>>CC(=O)c1cc([N+](=O)[O-])ccc1C(=O)[O:10][H:20].Cc1csc[n:21]1 10=20;20,21=21",
"CCCC[As](=O)(CCCC)[O:21][H:20].Cc1ccc(C(O)C[NH2:10])cc1>>CCCC[As](=O)(CCCC)[O-:21].Cc1ccc(C(O)C[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(=O)N1CC[NH+:21]([H:20])CC1.Oc1ccc2ccn[n:10]c2c1>>CC(=O)N1CC[NH:21]CC1.Oc1ccc2ccn[n+:10]([H:20])c2c1 10=20;20,21=21",
"Cc1ccc(O)c([O-:10])c1.[NH3+]CCC(=O)NC(Cc1c[n+:21]([H:20])c[nH]1)C(=O)[O-]>>Cc1ccc(O)c([O:10][H:20])c1.[NH3+]CCC(=O)NC(Cc1c[n:21]c[nH]1)C(=O)[O-] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]Cc1ccccc1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.C[NH+:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"COc1nc(N)c2c(nc[n:21]2[H:20])n1.c1coc(C2C[N:10]3CCC2CC3)c1>>COc1nc(N)c2c(nc[n-:21]2)n1.c1coc(C2C[N+:10]3([H:20])CCC2CC3)c1 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]CC.CC(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O:21][H:20]>>C=C(C)C(=O)OCC[NH+:10](CC)[H:20].CC(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O-:21] 10=20;20,21=21",
"CCC(C)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC(C)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc2c(c1[O-:10])-c1c3c(cc4c1C(C2)N(C)CC4)OCO3.Cc1ccc([O:21][H:20])c(Cc2cc(C)cc([N+](=O)[O-])c2[O-])c1>>COc1ccc2c(c1[O:10][H:20])-c1c3c(cc4c1C(C2)N(C)CC4)OCO3.Cc1ccc([O-:21])c(Cc2cc(C)cc([N+](=O)[O-])c2[O-])c1 10=20;20,21=21",
"C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CCC[NH2:10])cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CCC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CCC(CO)[NH2:10].Nc1c2ccccc2[nH+]c2ccc([O:21][H:20])cc12>>CCC(CO)[NH2+:10][H:20].Nc1c2ccccc2[nH+]c2ccc([O-:21])cc12 10=20;20,21=21",
"CC(=O)[O-:10].COc1cc(S(C)=O)ccc1-c1nc2cnncc2[n:21]1[H:20]>>CC(=O)[O:10][H:20].COc1cc(S(C)=O)ccc1-c1nc2cnncc2[n-:21]1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC(=O)[O:21][H:20].CN(C)c1nnn[n-:10]1>>CCCCCCCCCCCCCCCCCC(=O)[O-:21].CN(C)c1nnn[n:10]1[H:20] 10=20;20,21=21",
"CC(C)(C)[NH:10]c1ccccc1.Cc1cccc(C)c1[N:21](N=C(C#N)C#N)[H:20]>>CC(C)(C)[NH+:10](c1ccccc1)[H:20].Cc1cccc(C)c1[N-:21]N=C(C#N)C#N 10=20;20,21=21",
"C[S+](C)c1cccc([O:21][H:20])c1.O=[N+]([O-])c1cccc(S(=O)(=O)[NH-:10])c1>>C[S+](C)c1cccc([O-:21])c1.O=[N+]([O-])c1cccc(S(=O)(=O)[NH:10][H:20])c1 10=20;20,21=21",
"Clc1ccccc1C(c1ccccc1)=[NH:10].NC(=O)C[NH+](CC[N+:21](CC(N)=O)(Cc1ccccc1O)[H:20])Cc1ccccc1O>>Clc1ccccc1C(c1ccccc1)=[NH+:10][H:20].NC(=O)C[NH+](CC[N:21](CC(N)=O)Cc1ccccc1O)Cc1ccccc1O 10=20;20,21=21",
"CC(CC(C#N)(c1ccccc1)c1ccccc1)[N+:21]1([H:20])CCCCC1.c1ccc(C2=[N:10]CCC2)cc1>>CC(CC(C#N)(c1ccccc1)c1ccccc1)[N:21]1CCCCC1.c1ccc(C2=[N+:10]([H:20])CCC2)cc1 10=20;20,21=21",
"CC(=O)OCCc1c[nH]c[n+:21]1[H:20].Cc1cc(N)cc[n:10]1>>CC(=O)OCCc1c[nH]c[n:21]1.Cc1cc(N)cc[n+:10]1[H:20] 10=20;20,21=21",
"C[N:10]1CCCCC1.N#Cc1ccccc1[O:21][H:20]>>C[N+:10]1([H:20])CCCCC1.N#Cc1ccccc1[O-:21] 10=20;20,21=21",
"Cc1c2[nH]c3cc(O)ccc3c2cc[n:10]1.NC(=O)CN(CC(=O)O)CC(=O)[O:21][H:20]>>Cc1c2[nH]c3cc(O)ccc3c2cc[n+:10]1[H:20].NC(=O)CN(CC(=O)O)CC(=O)[O-:21] 10=20;20,21=21",
